US08383639B2
3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide.
To a solution of 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.54 g, 1.64 mmol, 1.0 equiv) in THF (33 mL) under a nitrogen atmosphere, was added Lawesson's reagent (0.40 g, 0.98 mmol, 0.6 equiv). The yellow solution was then heated to 70° C. (oil bath). After stirring for 1 h, the reaction was cooled to ambient temperature and concentrated in vacuo. The crude product was purified by silica gel chromatography (30-100% ethyl acetate/hexane) to provide the title compound (0.28 g, 49% yield) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.04 (s, 1H), 7.63 (s, 1H), 7.50-7.57 (m, 2H), 7.27-7.41 (m, 3H), 5.30 (s, 2H), 3.96-4.08 (m, 4H), 1.62 (s, 6H); LCMS (ES+, (M+H)+) m/z 346.17.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 1.64 mmol, 0.54 g, 1.0 equiv | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)N | C17H19N3O4
reactant | Lawesson's reagent | 0.98 mmol, 0.40 g, 0.6 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 33 mL | C1CCOC1 | C4H8O
product | 3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbothioamide | 0.28 g, 49% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(N)=S | C17H19N3O3S
